US04315095
A solution of methyl 2-amino-2-difluoromethyl-3-(5-imidazolyl)propionate dihydrochloride (10 g) in concentrated HCl is heated at reflux temperature for 16 hours. Concentration of the reaction mixture gives a residue which is passed on an Amberlite IR 120 H+ form resin column. Elution with a solution of HCl 2 M afforded the 2-amino-2-difluoromethyl-3-(5-imidazolyl)propionic acid hydrochloride which is recrystallized from water/ethanol.

reactant | methyl 2-amino-2-difluoromethyl-3-(5-imidazolyl)propionate dihydrochloride | 10 g | Cl.Cl.NC(C(=O)OC)(CC1=CN=CN1)C(F)F
solvent | HCl | Cl | ClH
product | 2-amino-2-difluoromethyl-3-(5-imidazolyl)propionic acid hydrochloride | Cl.NC(C(=O)O)(CC1=CN=CN1)C(F)F | InChI=1S/C7H9F2N3O2.ClH/c8-5(9)7(10,6(13)14)1-4-2-11-3-12-4;/h2-3,5H,1,10H2,(H,11,12)(H,13,14);1H
